US04101659
A mixture of 80 ml of carbon disulfide and 39.82 g (0.193 mole) of dicyclohexylcarbodimide in 100 ml of anhydrous ether, under dry N2, is cooled with stirring to -35° C. Then 42.23 g (0.194 mole) of p-chlorobenzhydrylamine in 500 ml of dry ether is added over about 5 min such that the temperature within the reaction vessel does not rise above -20° C. The temperature is allowed to rise slowly over 3 hrs. to ca.25° C and stirring is continued overnight. Dicyclohexylthiourea was removed by filtration and the filtrate is taken to dryness in vacuo. The cloudy oil is treated with 500 ml of pentane which dissolves the product and precipitates more insoluble impurities. Filtration through filter aid (diatomaceous earth) and solvent removal in vacuo gives p-chlorobenzhydryl isothiocyanate as an oil; IR (neat) 2140 cm-1.

reactant | carbon disulfide | 80 ml | C(=S)=S | CS2
reactant | dicyclohexylcarbodimide | 0.193 mole, 39.82 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | p-chlorobenzhydrylamine | 0.194 mole, 42.23 g | ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1 | C13H12ClN
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | p-chlorobenzhydryl isothiocyanate | ClC1=CC=C(C(C2=CC=CC=C2)N=C=S)C=C1 | C14H10ClNS
